US07060844B2
To a slurry of azetidine hydrochloride (126 mg, 1.35 mmol) in THF (1.0 ml) was added a scoop of Aberlite-IRA-93 ion exchange resin, which was shaken 3 minutes to give a solution, dried with anhydrous Na2SO4 and filtered to remove resin. Then methanesulfonic acid 2-[3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-ethyl ester (50.0 mg, 0.135 mmol) was added to the amine solution and heated at 60° C. for 18 hours (no reaction had occurred). After standing at room temperature for 2 days, to the mixture were added dioxane (0.3 ml), azetidine hydrochloride (63 mg, 0.675 mmol), and triethylamine (132 μl, 0.945 mmol). The resulting mixture was stirred at room temperature for 3 days, and heated at 60° C. for 24 hours. The reaction was partitioned between water and EtOAc. The EtOAc layer was extracted with 4% HCl aqueous solution, and then the aqueous layer was basified with saturated NaHCO3 aqueous solution. The basified aqueous layer was extracted with EtOAc. The organic layer was washed with brine, dried over anhydrous Na2SO4 and rotary evaporated to give a film. The film was chromatographed (2.5% to 5% MeOH/CHCl3 gradient) to provide 3-[3-(2-azetidin-1-yl-ethyl)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one as a yellow film (8.7 mg, 19%).

reactant | azetidine hydrochloride | 1.35 mmol, 126 mg | Cl.N1CCC1
reactant | methanesulfonic acid 2-[3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-ethyl ester | 0.135 mmol, 50.0 mg | O=C1NC2=CC=CC=C2C1=C1OC(C2=CC=CC=C12)CCOS(=O)(=O)C | C19H17NO5S
reactant | dioxane | 0.3 ml | O1CCOCC1 | C4H8O2
reactant | azetidine hydrochloride | 0.675 mmol, 63 mg | Cl.N1CCC1
reactant | triethylamine | 0.945 mmol, 132 μl | C(C)N(CC)CC | C6H15N
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
product | 3-[3-(2-azetidin-1-yl-ethyl)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | N1(CCC1)CCC1OC(C2=CC=CC=C12)=C1C(NC2=CC=CC=C12)=O | C21H20N2O2
